Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])=[C:7]1[C:8]([H:9])([H:10])[H:11],-0.85944228061
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[O:8][H:9],4.876499795369999
[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.92630162229
[C:1].[C:2]=[C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.06948650038
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-8.01433436
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([C:3][H:4])[C:9]([H:10])([H:11])[O:12][H:13],4.6780227835
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],4.79534844549
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1],8.026621944910001
[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][H:5],0.824334834081
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-1.62387886121
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.1996447850599999
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.23358458257
[C:6][H:7].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],-5.28688363228
[H:7].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.06227361041
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7][H:8].[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-5.186316628219999
[H:10].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8][H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.067169991419999
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.24461102305
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-7.176512435989999
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-1.1853304408299998
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-3.009683685
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:4][C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2][H:3],3.80488478134
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][H:5],1.4456954682700005
[H:4].[O:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9][H:10]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],-4.5439732173500005
[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[O:7][H:8]>>[C:2]([H:3])([C:4]#[C:5][H:6])[O:7][H:8].[O:1],3.47106657769
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],0.93071009888
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.14908226707
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.58564809516
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.495619076980001
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7],7.074790007789999
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2][C:3](=[O:4])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:5],3.47821840477
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.03633831331
